US06833462B2
A 500 ml flask was flushed with nitrogen to displace the air with nitrogen, and was charged with 83.1 g (0.50 mol) of 2-methyl-2-adamantanol, 101.2 g (1.0 mol) of triethylamine and 200 g of tetrahydrofuran. Then 118.9 g (0.75 mol) of α-trifluoromethylacryloyl chloride was dropwise added to the content in the flask over a period of about 1 hour, while the content was maintained at a reaction temperature of about 0° C. Then the content was stirred for 10 hours at room temperature. After completion of the reaction, the reaction mixture was washed with water and then with an aqueous saturated sodium chloride solution. The thus-obtained organic phase was subjected to column chromatography, and further, analyzed by NMR and mass spectrometry. Thus, 101.2 g (yield: 70.3%) of the object 2-methyl-2-adamantyl α-trifluoromethylacrylate was obtained.

reactant | 2-methyl-2-adamantanol | 0.50 mol, 83.1 g | CC1(C2CC3CC(CC1C3)C2)O | C11H18O
reactant | triethylamine | 1.0 mol, 101.2 g | C(C)N(CC)CC | C6H15N
reactant | α-trifluoromethylacryloyl chloride | 0.75 mol, 118.9 g | FC(C(C(=O)Cl)=C)(F)F | C4H2ClF3O
solvent | tetrahydrofuran | 200 g | O1CCCC1 | C4H8O
product | 2-methyl-2-adamantyl α-trifluoromethylacrylate | yield: 70.3% | FC(C(C(=O)OC1(C2CC3CC(CC1C3)C2)C)=C)(F)F | C15H19F3O2
